* Created by KLayout
*** My special header ***

* cell sram_8w2b
* pin BL0
* pin BL1
* pin BLB0
* pin BLB1
* pin VDD
* pin VSS
* pin WL0
* pin WL1
* pin WL2
* pin WL3
* pin WL4
* pin WL5
* pin WL6
* pin WL7
.SUBCKT sram_8w2b BL0 BL1 BLB0 BLB1 VDD VSS WL0 WL1 WL2 WL3 WL4 WL5 WL6 WL7
* device instance $1 r0 *1 -376.4,10448.2 PMOS
XM$1 \$I24 \$I25 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $2 r0 *1 -370.8,10448.2 PMOS
XM$2 VDD \$I24 \$I25 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $3 r0 *1 -376.4,10456.2 PMOS
XM$3 VDD \$I28 \$I27 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $4 r0 *1 -370.8,10456.2 PMOS
XM$4 VDD \$I27 \$I28 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $5 r0 *1 -402.6,10448.2 PMOS
XM$5 \$I22 \$I23 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $6 r0 *1 -397,10448.2 PMOS
XM$6 VDD \$I22 \$I23 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $7 r0 *1 -402.6,10456.2 PMOS
XM$7 VDD \$I29 \$I26 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $8 r0 *1 -397,10456.2 PMOS
XM$8 VDD \$I26 \$I29 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $9 r0 *1 -402.6,10478.3 NMOS
XM$9 \$I26 \$I29 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $10 r0 *1 -397,10478.3 NMOS
XM$10 VSS \$I26 \$I29 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $11 r0 *1 -406.1,10485.2 NMOS
XM$11 \$I26 WL7 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $12 r0 *1 -393.6,10485.2 NMOS
XM$12 \$I29 WL7 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $13 r0 *1 -406.1,10419.2 NMOS
XM$13 BL0 WL6 \$I22 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $14 r0 *1 -393.6,10419.2 NMOS
XM$14 BLB0 WL6 \$I23 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $15 r0 *1 -402.6,10426.1 NMOS
XM$15 \$I22 \$I23 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $16 r0 *1 -397,10426.1 NMOS
XM$16 \$I23 \$I22 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $17 r0 *1 -379.9,10419.2 NMOS
XM$17 BLB1 WL6 \$I24 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $18 r0 *1 -367.4,10419.2 NMOS
XM$18 BL1 WL6 \$I25 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $19 r0 *1 -376.4,10426.1 NMOS
XM$19 \$I24 \$I25 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $20 r0 *1 -370.8,10426.1 NMOS
XM$20 \$I25 \$I24 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $21 r0 *1 -376.4,10478.3 NMOS
XM$21 \$I27 \$I28 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $22 r0 *1 -370.8,10478.3 NMOS
XM$22 VSS \$I27 \$I28 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $23 r0 *1 -379.9,10485.2 NMOS
XM$23 \$I27 WL7 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $24 r0 *1 -367.4,10485.2 NMOS
XM$24 \$I28 WL7 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $25 r0 *1 -376.4,10364.8 PMOS
XM$25 \$I32 \$I33 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $26 r0 *1 -370.8,10364.8 PMOS
XM$26 VDD \$I32 \$I33 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $27 r0 *1 -376.4,10372.8 PMOS
XM$27 VDD \$I36 \$I35 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $28 r0 *1 -370.8,10372.8 PMOS
XM$28 VDD \$I35 \$I36 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $29 r0 *1 -402.6,10364.8 PMOS
XM$29 \$I30 \$I31 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $30 r0 *1 -397,10364.8 PMOS
XM$30 VDD \$I30 \$I31 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $31 r0 *1 -402.6,10372.8 PMOS
XM$31 VDD \$I37 \$I34 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $32 r0 *1 -397,10372.8 PMOS
XM$32 VDD \$I34 \$I37 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $33 r0 *1 -402.6,10394.9 NMOS
XM$33 \$I34 \$I37 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $34 r0 *1 -397,10394.9 NMOS
XM$34 VSS \$I34 \$I37 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $35 r0 *1 -406.1,10401.8 NMOS
XM$35 \$I34 WL5 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $36 r0 *1 -393.6,10401.8 NMOS
XM$36 \$I37 WL5 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $37 r0 *1 -406.1,10335.8 NMOS
XM$37 BL0 WL4 \$I30 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $38 r0 *1 -393.6,10335.8 NMOS
XM$38 BLB0 WL4 \$I31 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $39 r0 *1 -402.6,10342.7 NMOS
XM$39 \$I30 \$I31 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $40 r0 *1 -397,10342.7 NMOS
XM$40 \$I31 \$I30 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $41 r0 *1 -379.9,10335.8 NMOS
XM$41 BLB1 WL4 \$I32 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $42 r0 *1 -367.4,10335.8 NMOS
XM$42 BL1 WL4 \$I33 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $43 r0 *1 -376.4,10342.7 NMOS
XM$43 \$I32 \$I33 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $44 r0 *1 -370.8,10342.7 NMOS
XM$44 \$I33 \$I32 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $45 r0 *1 -376.4,10394.9 NMOS
XM$45 \$I35 \$I36 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $46 r0 *1 -370.8,10394.9 NMOS
XM$46 VSS \$I35 \$I36 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $47 r0 *1 -379.9,10401.8 NMOS
XM$47 \$I35 WL5 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $48 r0 *1 -367.4,10401.8 NMOS
XM$48 \$I36 WL5 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $49 r0 *1 -376.4,10281.4 PMOS
XM$49 \$I40 \$I41 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $50 r0 *1 -370.8,10281.4 PMOS
XM$50 VDD \$I40 \$I41 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $51 r0 *1 -376.4,10289.4 PMOS
XM$51 VDD \$I44 \$I43 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $52 r0 *1 -370.8,10289.4 PMOS
XM$52 VDD \$I43 \$I44 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $53 r0 *1 -402.6,10281.4 PMOS
XM$53 \$I38 \$I39 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $54 r0 *1 -397,10281.4 PMOS
XM$54 VDD \$I38 \$I39 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $55 r0 *1 -402.6,10289.4 PMOS
XM$55 VDD \$I45 \$I42 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $56 r0 *1 -397,10289.4 PMOS
XM$56 VDD \$I42 \$I45 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $57 r0 *1 -402.6,10311.5 NMOS
XM$57 \$I42 \$I45 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $58 r0 *1 -397,10311.5 NMOS
XM$58 VSS \$I42 \$I45 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $59 r0 *1 -406.1,10318.4 NMOS
XM$59 \$I42 WL3 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $60 r0 *1 -393.6,10318.4 NMOS
XM$60 \$I45 WL3 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $61 r0 *1 -406.1,10252.4 NMOS
XM$61 BL0 WL2 \$I38 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $62 r0 *1 -393.6,10252.4 NMOS
XM$62 BLB0 WL2 \$I39 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $63 r0 *1 -402.6,10259.3 NMOS
XM$63 \$I38 \$I39 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $64 r0 *1 -397,10259.3 NMOS
XM$64 \$I39 \$I38 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $65 r0 *1 -379.9,10252.4 NMOS
XM$65 BLB1 WL2 \$I40 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $66 r0 *1 -367.4,10252.4 NMOS
XM$66 BL1 WL2 \$I41 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $67 r0 *1 -376.4,10259.3 NMOS
XM$67 \$I40 \$I41 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $68 r0 *1 -370.8,10259.3 NMOS
XM$68 \$I41 \$I40 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $69 r0 *1 -376.4,10311.5 NMOS
XM$69 \$I43 \$I44 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $70 r0 *1 -370.8,10311.5 NMOS
XM$70 VSS \$I43 \$I44 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $71 r0 *1 -379.9,10318.4 NMOS
XM$71 \$I43 WL3 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $72 r0 *1 -367.4,10318.4 NMOS
XM$72 \$I44 WL3 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $73 r0 *1 -376.4,10198 PMOS
XM$73 \$I48 \$I49 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $74 r0 *1 -370.8,10198 PMOS
XM$74 VDD \$I48 \$I49 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $75 r0 *1 -376.4,10206 PMOS
XM$75 VDD \$I52 \$I51 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $76 r0 *1 -370.8,10206 PMOS
XM$76 VDD \$I51 \$I52 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $77 r0 *1 -402.6,10198 PMOS
XM$77 \$I46 \$I47 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $78 r0 *1 -397,10198 PMOS
XM$78 VDD \$I46 \$I47 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $79 r0 *1 -402.6,10206 PMOS
XM$79 VDD \$I53 \$I50 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $80 r0 *1 -397,10206 PMOS
XM$80 VDD \$I50 \$I53 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $81 r0 *1 -402.6,10228.1 NMOS
XM$81 \$I50 \$I53 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $82 r0 *1 -397,10228.1 NMOS
XM$82 VSS \$I50 \$I53 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $83 r0 *1 -406.1,10235 NMOS
XM$83 \$I50 WL1 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $84 r0 *1 -393.6,10235 NMOS
XM$84 \$I53 WL1 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $85 r0 *1 -406.1,10169 NMOS
XM$85 BL0 WL0 \$I46 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $86 r0 *1 -393.6,10169 NMOS
XM$86 BLB0 WL0 \$I47 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $87 r0 *1 -402.6,10175.9 NMOS
XM$87 \$I46 \$I47 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $88 r0 *1 -397,10175.9 NMOS
XM$88 \$I47 \$I46 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $89 r0 *1 -379.9,10169 NMOS
XM$89 BLB1 WL0 \$I48 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $90 r0 *1 -367.4,10169 NMOS
XM$90 BL1 WL0 \$I49 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $91 r0 *1 -376.4,10175.9 NMOS
XM$91 \$I48 \$I49 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $92 r0 *1 -370.8,10175.9 NMOS
XM$92 \$I49 \$I48 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $93 r0 *1 -376.4,10228.1 NMOS
XM$93 \$I51 \$I52 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $94 r0 *1 -370.8,10228.1 NMOS
XM$94 VSS \$I51 \$I52 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $95 r0 *1 -379.9,10235 NMOS
XM$95 \$I51 WL1 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $96 r0 *1 -367.4,10235 NMOS
XM$96 \$I52 WL1 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
.ENDS sram_8w2b
